US20010018099A1
A mixture of 2,5-dinitrophenol (4.0 g), potassium carbonate (4.6 g), NMP (40 mL) and 1,4-dibromo-2-butene (14.0 g) is heated to 45° C. for 2 hr. Extraction in the normal fashion and Kugelrohr distillation of the excess dibromide (0.1 mm Hg, 800 C) gives l-bromo-4-(2,5-dinitrophenyloxy)but-2-ene (mp 81-83° C.).

reactant | 2,5-dinitrophenol | 4.0 g | [N+](=O)([O-])C1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | potassium carbonate | 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dibromo-2-butene | 14.0 g | BrCC=CCBr | C4H6Br2
solvent | NMP | 40 mL | CN1CCCC1=O | C5H9NO
product | l-bromo-4-(2,5-dinitrophenyloxy)but-2-ene | BrCC=CCOC1=C(C=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C10H9BrN2O5
